US03996255
dl-1-Iodo-3-Trimethylsilylethynyl-3-Trimethylsilyloxy-1-Octene
A solution of 3.3 g. of dl-3-ethynyl-1-iodo-3-trimethylsilyloxy-1-octene in 10 ml. of THF is treated at 0° C. under N2 with 3 ml. of 3M ethyl magnesium bromide and stirred at 25° C. for 1/2 hour. The mixture is then treated at 0° C. with 3.5 ml. of trimethylchlorosilane and stirred at 25° C. for an additional 21/2 hours. The whole mixture is added to aqueous ammonium chloride solution and extracted with ether. After washing with brine and drying over magnesium sulfate, the extract is evaporated. Distillation of the residue gives the title product, as an oil, 2.5 g. b.p. 79°-81° C. (0.025 mm).

reactant | 3-ethynyl-1-iodo-3-trimethylsilyloxy-1-octene | C(#C)C(C=CI)(CCCCC)O[Si](C)(C)C | C13H23IOSi
reactant | ethyl magnesium bromide | 3M | C(C)[Mg]Br
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-Iodo-3-Trimethylsilylethynyl-3-Trimethylsilyloxy-1-Octene | IC=CC(CCCCC)(O[Si](C)(C)C)C#C[Si](C)(C)C | C16H31IOSi2
